US07384963B2
2′-Methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(3-phenoxyphenyl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and 3-phenoxyaniline using method I. LCMS; retention time 3.85 min, MH+ 462.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 3-phenoxyaniline | O(C1=CC=CC=C1)C=1C=C(N)C=CC1 | C12H11NO
product | 2′-Methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(3-phenoxyphenyl)-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)NC1=CC(=CC=C1)OC1=CC=CC=C1 | C29H23N3O3
